US07943655B2
A solution of NaOH (0.96 g, 22.68 mmol; assay=94.52%), water (22 ml), ethanol (22 ml, technical grade, contains ˜5% 2-propanol) and Trandolapril (4.5 g, 10.42 mmol; assay=99.7%) was stirred at an internal temperature ranging from about 20° C. to about 25° C. for 19 hours. After an in process control showed an almost complete saponification (by HPLC), the clear solution was acidified at a temperature ranging from about 20° C. to about 25° C. with 2N aqueous hydrochloric acid to a pH of 3.8 (22.8 mmol; the solution was seeded during acidification and the crystallization started at pH=4.6). The suspension was stirred at a temperature ranging from about 20° C. to about 25° C. (the stirring time in this case after pH adjustment was 47 hours and the pH was adjusted from 3.71 to 3.82 by an addition of 1 drop of 2N aqueous NaOH solution; generally a maximum stirring time of 5 to 6 hours at this pH is sufficient) and then filtered off. The wet product was washed with water (30 ml) and dried in vacuo (1-5 mbar) for 15 hours at 40° C. to give Trandolaprilat (yield: 4.0 g, 9.06 mmol, 86.9%; assay=91.15%; water content: 1.02-1.12%, ethanol content: 7.52-8.44%, 2-propanol content: 0.26-0.29, chloride content=not detected).

reactant | NaOH | 22.68 mmol, 0.96 g | [OH-].[Na+]
reactant | water | 22 ml | O | H2O
reactant | Trandolapril | 10.42 mmol, 4.5 g | CCOC(=O)[C@H](CCC=1C=CC=CC1)N[C@@H](C)C(=O)N2[C@H]3CCCC[C@@H]3C[C@H]2C(=O)O | C24H34N2O5
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 22 ml | C(C)O | C2H6O
product | Trandolaprilat | C[C@@H](C(=O)N1[C@H]2CCCC[C@@H]2C[C@H]1C(=O)O)N[C@@H](CCC=3C=CC=CC3)C(=O)O | C22H30N2O5
